US09388197B2
A.2.2.3. Synthesis of (2-(aminomethyl)-3,5-dichlorophenyl)methanol
To a soln. of 3,5-dichloro-2-cyanobenzyl acetate (11.7 mmol) in 50 mL THF was added a soln. of BH3 (50 mmol, 1M in THF). The reaction mixture was heated to 75° C. for 7 h and then cooled to 0° C. Water was added followed by MeOH and the mixture was conc. The residue was taken up in water and EtOAc, acidified with 1N HCl solution and extracted with DCM. The aq. phase was then basified with 1M NaOH soln. and extracted with DCM. The comb. org. layers were dried over MgSO4 and conc. in vacuo. Purification with CC (0-10% MeOH/DCM; 1% Et3N) gives the desired compound as pinkish solid.

reactant | 3,5-dichloro-2-cyanobenzyl acetate | 11.7 mmol | C(C)(=O)OCC1=C(C(=CC(=C1)Cl)Cl)C#N | C10H7Cl2NO2
reactant | MeOH | CO | CH4O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-(aminomethyl)-3,5-dichlorophenyl)methanol | NCC1=C(C=C(C=C1Cl)Cl)CO | C8H9Cl2NO
